US04436748
A mixture of 9.37 g of 2,3-dichloro-4-methoxybenzenesulfonyl chloride, 72 g of crushed ice, 24 g of conc. sulfuric acid and 12 g of zinc dust is stirred under reflux for 16 hours. The mixture is diluted with dichloromethane, cooled and stirred at room temperature for 2 hours. Filtration removes the unreacted zinc and the organic extracts are washed with water, sodium bicarbonate solution and dried over anhydrous magnesium sulfate. Removal of solvent in vacuo leaves a white solid which is recrystallized from ether-pentane to give 5.5 g of 2,3-dichloro-4-methoxy-thiophenol as colorless needles, mp 81.5°-83°.

reactant | 2,3-dichloro-4-methoxybenzenesulfonyl chloride | 9.37 g | ClC1=C(C=CC(=C1Cl)OC)S(=O)(=O)Cl | C7H5Cl3O3S
reactant | sulfuric acid | 24 g | S(O)(O)(=O)=O | H2O4S
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | zinc | 12 g | [Zn] | Zn
product | 2,3-dichloro-4-methoxy-thiophenol | 5.5 g | ClC1=C(C=CC(=C1Cl)OC)S | C7H6Cl2OS
